US08071581B2
Step 1: Benzothiazol-6-yl-acetic acid methyl ester
SOCl2 (13.5 g, 114.0 mmol) was added dropwise to a stirred solution of benzothiazol-6-yl-acetic acid (20.0 g, 103.6 mmol) in 150 ml of methanol at 0° C. under N2. After stirring for 2 hours at room temperature the solvent was evaporated and the residue was diluted with ethyl acetate (150 ml). The mixture was washed with saturated sodium carbonate solution (100 ml×3) and brine (100 ml) and then concentrated in vacuo. The residue was purified by column chromatoghaphy eluting with ethyl acetate/petroleum ether (1:5) to return the title compound as a pale yellow oil (15.0 g, 71.5%).

reactant | SOCl2 | 114.0 mmol, 13.5 g | O=S(Cl)Cl | Cl2OS
reactant | benzothiazol-6-yl-acetic acid | 103.6 mmol, 20.0 g | S1C=NC2=C1C=C(C=C2)CC(=O)O | C9H7NO2S
reactant | methanol | 150 ml | CO | CH4O
product | Benzothiazol-6-yl-acetic acid methyl ester | COC(CC1=CC2=C(N=CS2)C=C1)=O | C10H9NO2S
